US03991064
3-Benzoyl-1,2,3,4-tetrahydrobenzo[c][2,7]naphthyridin-5(6H)-one.
In the same way as described in example 2, the title product was prepared starting from phenylisocyanate and the pyrrolidine enamine of N-benzoyl-4-piperidone. Crystallization from methanol afforded analytical material, mp 275°-277° C.

reactant | phenylisocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | N-benzoyl-4-piperidone | C(C1=CC=CC=C1)(=O)N1CCC(CC1)=O | C12H13NO2
product | 3-Benzoyl-1,2,3,4-tetrahydrobenzo[c][2,7]naphthyridin-5(6H)-one | C(C1=CC=CC=C1)(=O)N1CCC=2C3=C(NC(C2C1)=O)C=CC=C3 | C19H16N2O2
